### PR TITLE
lemmas and minor changes about sequences

### PR DESCRIPTION
**Pull request by affeldt-aist**
- minor generalizations of existing lemmas

~~based on PR #403~~ (merged)

### CODE REVIEW

File: theories/sequences.v [hunk 1]
```diff
@@ -493,6 +501,16 @@ Lemma nondecreasing_is_cvg (u_ : R ^nat) (M : R) :
   nondecreasing_seq u_ -> (forall n, u_ n <= M) -> cvg u_.
 Proof. by move=> u_incr u_bnd; apply: cvgP; apply: nondecreasing_cvg. Qed.
 
+Lemma nondecreasing_dvg_lt (u_ : R ^nat) :
+  nondecreasing_seq u_ -> ~ cvg u_ ->
+  forall M, exists n, forall m, (m >= n)%N -> M <= u_ m.
```
Comment (CohenCyril) [inline theories/sequences.v:506]: This looks like an unfolding of `u_ --> +oo`

Comment (affeldt-aist) [reply theories/sequences.v]: This analogy led me to change the statements of `cvgPpinfty` lemmas along the way.

File: theories/reals.v [hunk 2]
```diff
@@ -103,6 +103,21 @@ exists (- y); last by rewrite ltr_oppr.
...
 
+Lemma has_ub_image_norm E : has_ubound (normr @` E) -> has_ubound E.
+Proof.
+case => M /ubP uM; exists `|M|; apply/ubP => r rS.
+rewrite (le_trans (real_ler_norm _)) ?num_real //.
+rewrite (le_trans (uM _ _)) ?real_ler_norm ?num_real //.
+by exists r.
+Qed.
+
+Lemma has_inf_supN E : has_inf E <-> has_sup (-%R @` E).
```
Comment (CohenCyril) [inline theories/reals.v:114]:
```suggestion
Lemma has_inf_supN E : has_sup (-%R @` E) <-> has_inf E.
```

File: theories/sequences.v [hunk 3]
```diff
@@ -243,28 +252,28 @@ have [|/=n _]:= u_cvg (fun x => P (- x)); do ?by [exists n
 by under [X in _ `<=` X]funext do rewrite /= opprK; exists n.
 Qed.
 
-Lemma cvgNminfty (u_ : R ^nat) : (- u_ --> -oo) = (u_ --> +oo).
+Lemma cvgNminfty u_ : (- u_ --> -oo) = (u_ --> +oo).
 Proof. by rewrite -cvgNpinfty opprK. Qed.
 
 Lemma cvgPminfty (u_ : R ^nat) :
-  u_ --> -oo <-> forall A, A > 0 -> \forall n \near \oo, - A >= u_ n.
+  u_ --> -oo <-> forall A, \forall n \near \oo, - A >= u_ n.
```
Comment (CohenCyril) [inline theories/sequences.v:259]:
```suggestion
  u_ --> -oo <-> forall A, \forall n \near \oo, A >= u_ n.
```

File: theories/sequences.v [hunk 4]
```diff
@@ -1464,7 +1486,26 @@ move: a b => [a| |] [b| |] // _.
 - exact: ereal_cvgD_ninfty_ninfty.
 Qed.
 
-Lemma ereal_limD (R : realType) (f g : (\bar R)^nat) :
+Lemma ereal_lim_sum (R : realFieldType) (I : Type) (r : seq I) (f : I -> (\bar R)^nat)
+    (l : I -> \bar R) (P : pred I) :
+  (forall n x, P x -> 0 <= f x n)%E ->
+  (forall k, f k --> l k) ->
```
Comment (CohenCyril) [inline theories/sequences.v:1492]:
```suggestion
  (forall k, P k -> f k --> l k) ->
```

File: theories/sequences.v [hunk 5]
```diff
@@ -1464,7 +1486,26 @@ move: a b => [a| |] [b| |] // _.
 - exact: ereal_cvgD_ninfty_ninfty.
 Qed.
 
-Lemma ereal_limD (R : realType) (f g : (\bar R)^nat) :
+Lemma ereal_lim_sum (R : realFieldType) (I : Type) (r : seq I) (f : I -> (\bar R)^nat)
+    (l : I -> \bar R) (P : pred I) :
+  (forall n x, P x -> 0 <= f x n)%E ->
```
Comment (CohenCyril) [inline theories/sequences.v:1491]:
```suggestion
  (forall k n, P k -> 0 <= f k n)%E ->
```
